US08211914B2
To a mixture of 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid (200 mg, 0.435 mmol) in 2 mL of CH2Cl2 was added a drop of DMF and approximately 2 mL of oxalyl chloride dropwise (gas evolution observed). The resulting mixture was stirred at room temperature for 72 hours, then concentrated to produce a solid, which was triturated with ether, then suspended in 5 mL of THF. To this suspension was added triethylamine (110 mg, 151 μL, 1.088 mmol), followed by N-hydroxy-isobutyramidine (54 mg, 0.529 mmol). The resulting reaction mixture was stirred at room temperature overnight, then diluted with EtOAc, and washed twice with saturated NH4Cl solution. The organic phase was then dried over Na2SO4, filtered, and concentrated. The residue was re-dissolved in 5 mL of THF, and treated with 4 N TBAF solution in THF (excess, ca. 2 mL). The mixture was stirred at room temperature overnight, and then diluted with EtOAc. The organic phase was washed with water, dried over Na2SO4, filtered, and concentrated. The crude product was purified by chromatography on silica gel (gradient elution with 10-50% ethyl acetate in hexanes) to produce 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {4-[4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-phenyl}-amide as an off-white solid. HRMS calcd for C27H26F3N5O3 (M+H) 526.2061, obsd 526.2059.

reactant | 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid | 0.435 mmol, 200 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O)C(F)(F)F | C23H20F3N3O4
reactant | oxalyl chloride | approximately 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1.088 mmol, 151 μL, 110 mg | C(C)N(CC)CC | C6H15N
reactant | N-hydroxy-isobutyramidine | 0.529 mmol, 54 mg | ONC(C(C)C)=N | C4H10N2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {4-[4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-phenyl}-amide | C(C)(C)C1=NOC(=N1)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C27H26F3N5O3
